US04970213
The reaction is carried out under the conditions of Reference Example 1 but starting from 1.93 g of 8-chloro-7-fluoro-1-methylamino-4-oxo-1,4-dihydro-benzo[b][1,8]naphthyridine-3-carboxylic acid, 2.4 g of 1-methylpiperazine and 20 cm3 of pyridine. After recrystallizing twice from 15 cm3 of dimethylformamide each time, 0.9 g of 7-fluoro-1-methylamino-8-(4-methyl-1-piperazinyl)-4-oxo-1,4-dihydro-benzo[b][1,8]-naphthyridine-3-carboxylic acid is obtained in the form of a yellow solid melting at 263°-264° C.

reactant | 8-chloro-7-fluoro-1-methylamino-4-oxo-1,4-dihydro-benzo[b][1,8]naphthyridine-3-carboxylic acid | 1.93 g | ClC=1C(=CC=2C(=NC=3N(C=C(C(C3C2)=O)C(=O)O)NC)C1)F | C14H9ClFN3O3
reactant | 1-methylpiperazine | 2.4 g | CN1CCNCC1 | C5H12N2
solvent | pyridine | 20 cm3 | N1=CC=CC=C1 | C5H5N
product | 7-fluoro-1-methylamino-8-(4-methyl-1-piperazinyl)-4-oxo-1,4-dihydro-benzo[b][1,8]-naphthyridine-3-carboxylic acid | 0.9 g | FC1=CC=2C(=NC=3N(C=C(C(C3C2)=O)C(=O)O)NC)C=C1N1CCN(CC1)C | C19H20FN5O3
